US09371270B2
2) Synthesis of 2-bromo-8,9-dihydro-4H-cyclopenta[def]phenanthrene
8.5 g (44.2 mmol) of 8,9-dihydro-4H-cyclopenta[def]phenanthrene was dissolved in 80 ml of CCl4, and 7.1 g (44.2 mmol) of Br2 was then slowly added thereto at 0° C. The reaction solution was stirred at room temperature for 4 hours and a 10% Na2SO3 solution was added thereto to separate the organic layer. The obtained organic layer was dried with magnesium sulfate, the solvent was evaporated therefrom, and the resultant product was recrystallized with n-hexane. As a result, 9.6 g of the target material was obtained (yield: 80%). The obtained compound was confirmed by LC-MS.

reactant | 8,9-dihydro-4H-cyclopenta[def]phenanthrene | 44.2 mmol, 8.5 g | C1=CC=C2C=3C=4C(=CC=CC4CCC13)C2 | C15H12
reactant | Br2 | 44.2 mmol, 7.1 g | BrBr | Br2
reactant | Na2SO3 | [O-]S(=O)[O-].[Na+].[Na+]
solvent | CCl4 | 80 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromo-8,9-dihydro-4H-cyclopenta[def]phenanthrene | 9.6 g, yield: 80% | BrC1=CC=2CCC=3C=CC=C4C3C2C(=C1)C4 | C15H11Br
